US04659707
(a) 4-Chloroacetyl-4,9-dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one
Chloroacetyl chloride (1.9 ml) is added in 20 minutes, contemporaneously with triethylamine (3.4 ml), to a suspension of 4,9-dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one (4.4 g) in dioxane (200 ml), heated to reflux.

reactant | Chloroacetyl chloride | 1.9 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4,9-dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one | 4.4 g | S1C=CC=2NC3=C(NC(C21)=O)C=CC=N3 | C10H7N3OS
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-Chloroacetyl-4,9-dihydro-10H-pyrido[3,2-b]thieno[3,2-e][1,4]-diazepin-10-one | ClCC(=O)N1C2=C(NC(C3=C1C=CS3)=O)C=CC=N2 | C12H8ClN3O2S
